US06265575B1
Part B. Methyl 5-[(1-Pyrrolidinyl)methyl]pyrazine-2-carboxylate
By essentially following the procedure used to prepare Example 137, Part B, the title compound was prepared from methyl 5-(bromomethyl)pyrazine-2-carboxylate (Part A) and pyrrolidine in 85% yield as a pale yellow oil. The mixture was subjected to flash chromatography on silica gel, eluting with a gradient of EtOAc(100-95%)/Et3N(0-5%).

reactant | methyl 5-(bromomethyl)pyrazine-2-carboxylate | BrCC=1N=CC(=NC1)C(=O)OC | C7H7BrN2O2
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | Methyl 5-[(1-Pyrrolidinyl)methyl]pyrazine-2-carboxylate | 85% yield | N1(CCCC1)CC=1N=CC(=NC1)C(=O)OC | C11H15N3O2
